datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](#[C:12][C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12]#[C:11][H:14])([H:15])[H:16])[H:6])[H:5],31.6729
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:9])([H:10])[H:11].[S:20]([c:21]1[c:22]([H:28])[c:23]([H:29])[c:24]([H:30])[c:25]([H:31])[c:26]1[H:32])[H:27]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:27])([H:9])([H:10])[H:11].[S:20][c:21]1[c:22]([H:28])[c:23]([H:29])[c:24]([H:30])[c:25]([H:31])[c:26]1[H:32],-2.5104
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])=[C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:19])[H:20])([H:17])[H:18])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([C:7](=[C:8]([H:22])[H:23])[H:21])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:13])([H:11])[H:12],87.2364
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:7],58.4923
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](=[C:9]([C:10]([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11](=[C:12]([H:18])[H:19])[H:17])[H:16],48.9528
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])[H:9])([H:7])[H:8],18.8698
[C:0]([C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6]>>[C:0]([C:1](=[C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:4])([H:5])[H:6],161.921
[H:0].[I:1]>>[H:0][I:1],0.0
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:16]([H:17])([H:18])[H:19],35.5222
[C:4]([H:5])([H:6])[H:7].[O:0]([O:1][H:3])[H:2]>>[H:2][C:4]([H:5])([H:6])[H:7].[O:0][O:1][H:3],21.67312
[O:0]=[N+:1][O-:2].[O:3][N+:4](=[O:5])[O-:6]>>[O:0]=[N+:1]([O-:2])[O:3][N+:4](=[O:5])[O-:6],0.0
[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])[H:10].[C:19](=[C:20][C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[C:20](=[C:19]([H:22])[H:23])[C:21]([H:24])([H:25])[H:26])([H:9])[H:10],23.807
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]#[C:15][H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]#[C:15][H:16],0.0
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])[H:4],46.275
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])([H:13])[H:14])[H:12])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([C:3]1([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([H:15])([H:16])[H:17])[C:7]([H:18])([H:19])[H:20])[H:11])[H:10])([H:8])[H:9],22.5099
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])([H:10])[H:11],88.4498
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19][C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:19](=[C:18]([H:21])[H:22])[C:20]([H:23])([H:24])[H:25])[H:11])[H:10],5.18816
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6]>>[C:0]1([H:6])=[C:1]=[C:2]([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]1([H:10])[H:11],156.176
